* Z:\mnt\design.r\spice\examples\3424.asc
R1 N006 0 30.1K
R2 N005 N004 82K
R3 OUT N007 110K
R4 N007 0 249K
V1 N002 0 3
C1 N005 0 4.7p
C2 OUT 0 44µ
V2 N001 0 1.2
L1 N001 N003 2.2µ
C3 N004 0 470p
D1 N003 OUT 1N5817
Rload OUT 0 1K
XU1 N006 N002 N001 N003 0 N002 OUT N007 N005 N002 LTC3424
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
.lib LTC3424.sub
.backanno
.end
